US07196080B2
Using 6-(3,4-dimethoxyphenyl)pyridine-2-carboxylic acid and t-butoxycarbonylpiperazine, 1-{[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-4-(t-butoxycarbonyl) piperazine was obtained in a similar manner to Example 2 to be mentioned below. Further, a 4M hydrogen chloride/ethyl acetate solution was added thereto and the whole was reacted to obtain an objective compound.

reactant | 6-(3,4-dimethoxyphenyl)pyridine-2-carboxylic acid | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)O | C14H13NO4
reactant | t-butoxycarbonylpiperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | [6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-4-(t-butoxycarbonyl) piperazine | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C23H29N3O5
